US05763439
Preparation of 2-tert-butyl-4-difluoromethyl-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one (Compound No. 12)
20 ml of an absolute ethanol solution of 0.71 g of 2-tert-butyl-5-chloro-4-difluoromethylpyridazin-3-(2H)-one, 0.33 g of 4-picolylamine and 0.33 g of triethylamine, was reacted for 5 hours under heating and refluxing and left to cool. Then, the mixture was extracted with ethyl acetate, then washed with water and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. The solvent was distilled off. The residue was subjected to column chromatography, and using an eluent (n-hexane:ethyl acetate=1:2), 0.32 g of the desired product (Compound No. 12) having a melting point of from 142° to 143° C. and 0.04 g of amorphous 2-tert-butyl-5-(4-pyridylmethylamino)-4-(4-pyridylmethyliminomethylidenyl)pyridazin-3-(2H)-one (Compound No. 2) as a by-product, were obtained.

reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | 2-tert-butyl-5-chloro-4-difluoromethylpyridazin-3-(2H)-one | 0.71 g | C(C)(C)(C)N1N=CC(=C(C1=O)C(F)F)Cl | C9H11ClF2N2O
reactant | 4-picolylamine | 0.33 g | N1=CC=C(C=C1)CN | C6H8N2
solvent | triethylamine | 0.33 g | C(C)N(CC)CC | C6H15N
product | 2-tert-butyl-4-difluoromethyl-5-(4-pyridylmethylamino)pyridazin-3-(2H)-one | C(C)(C)(C)N1N=CC(=C(C1=O)C(F)F)NCC1=CC=NC=C1 | C15H18F2N4O
